US07687515B2
To a solution of [4-cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-imidazo[4,5-c]-pyridin-1-yl]-acetic acid methyl ester (110 mg, 0.27 mmol) in a 1:1 mixture of dimethylformamide (2 ml) and water (2 ml) was added lithium hydroxide (19 mg, 0.81 mmol) dissolved in 200 μL of water. An additional 2 ml of dimethylformamide was added to aid solubility. The mixture was stirred at room temperature for 30 minutes before acidification to pH 1 with 2N HCl solution and filtration. The solid obtained was washed with ether before dissolving in acetone and concentration under reduced pressure to remove residual organic solvents and afford [4-cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-imidazo[4,5-c]pyridin-1-yl]-acetic acid (100 mg). 1H NMR (DMSO): δ 8.76 (s, 1H) 8.64 (s, 1H) 8.37 (m, 3H) 7.43 (d, 1H) 5.31 (s, 2H) 4.27 (q, 2H) 1.38 (t, 3H); MS m/z 391.7 (M+1).

reactant | [4-cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-imidazo[4,5-c]-pyridin-1-yl]-acetic acid methyl ester | 0.27 mmol, 110 mg | COC(CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N)=O | C19H15F3N4O3
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | lithium hydroxide | 0.81 mmol, 19 mg | [OH-].[Li+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | HCl | 2N | Cl | ClH
solvent | water | 200 μL | O | H2O
solvent | water | 2 ml | O | H2O
product | [4-cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-imidazo[4,5-c]pyridin-1-yl]-acetic acid | 100 mg | C(#N)C1=NC(=CC2=C1N=CN2CC(=O)O)C2=CC(=C(C=C2)OCC)C(F)(F)F | C18H13F3N4O3
